US07772221B2
Step AH (1): To a solution of 2-bromo-5-hydroxybenzaldehyde (1000.0 mg, 4.975 mmol) in DMF (20 mL) were added methyl iodide (0.31 mL, 5.000 mmol) and potassium carbonate (1036.6 mg, 7.500 mmol). The reaction mixture was stirred at rt for 2.5 days. Water was added and the reaction mixture was extracted with hexanes-ether (1:1) solvent system. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum to yield 2-bromo-5-methoxybenzaldehyde (1069.8 mg, 100%) as colorless oil. LC-MS (M+H)+=215.11. 1H NMR (500 MHz, DMSO-d6) δ 10.18 (s, 1H). 7.70 (d, J=10 Hz, 1H) 7.35 (d, J=3 Hz, 1H) 7.23 (dt, J1=7.0 Hz, J2=2.0 Hz, 1H) 3.83 (s, 3H).

reactant | 2-bromo-5-hydroxybenzaldehyde | 4.975 mmol, 1000.0 mg | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | methyl iodide | 5.000 mmol, 0.31 mL | CI | CH3I
reactant | potassium carbonate | 7.500 mmol, 1036.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-methoxybenzaldehyde | 1069.8 mg, 100% | BrC1=C(C=O)C=C(C=C1)OC | C8H7BrO2
